US07157488B2
N-t-Butoxycarbonyl-N-2-(3-chlorophenyl)ethyl-3-hydroxybenzylamine
Combine N-2-(3-chlorophenyl)ethyl-3-hydroxybenzylamine, dichloromethane (40 mL), and di-tert-butyl dicarbonate (1.556 gm; 7.131 mmol) and triethylamine (1.0 mL; 7.2 mmol). After 18 hours, pour into water (50 mL), separate the layers, and extract the aqueous layer with dichloromethane. Wash combined organic layers with water, dry over MgSO4, and concentrate. Chromatograph on silica gel eluting with 5% ethyl acetate in hexanes to give the title compound.

reactant | N-2-(3-chlorophenyl)ethyl-3-hydroxybenzylamine | ClC=1C=C(C=CC1)CCNCC1=CC(=CC=C1)O | C15H16ClNO
reactant | dichloromethane | 40 mL | ClCCl | CH2Cl2
reactant | di-tert-butyl dicarbonate | 7.131 mmol, 1.556 gm | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 7.2 mmol, 1.0 mL | C(C)N(CC)CC | C6H15N
solvent | water | 50 mL | O | H2O
product | N-t-Butoxycarbonyl-N-2-(3-chlorophenyl)ethyl-3-hydroxybenzylamine | C(C)(C)(C)OC(=O)N(CCC1=CC(=CC=C1)Cl)CC1=CC(=CC=C1)O | C20H24ClNO3
